US04059705
500 Mg. of 1-(3-chlorooctyl)imidazole in 10 ml. tetrahydrofuran was added to a fully reacted mixture of 750 mg. of n-octylmercaptan and 200 mg. of 56% sodium hydride dispersion in mineral oil in 30 ml. of tetrahydrofuran. After stirring under reflux for 12 hours the solvent was evaporated under vacuum and 150 ml. of ether was added. The resulting mixture was washed twice with water and the ethereal solution dried and evaporated. The residue was chromatographed on silica gel, eluting with 20% acetone/dichloromethane to afford 1-(3-octylthiooctyl)imidazole, as an oil. This material was converted to the oxalate salt by treatment of an ethereal solution with oxalic acid in ether until precipitation was complete, which salt was recrystallized from ethyl acetate as snow-white microcrystals, m.p. 105°-108° C.

reactant | 1-(3-chlorooctyl)imidazole | ClC(CCN1C=NC=C1)CCCCC | C11H19ClN2
reactant | n-octylmercaptan | C(CCCCCCC)S | C8H18S
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-octylthiooctyl)imidazole | C(CCCCCCC)SC(CCN1C=NC=C1)CCCCC | C19H36N2S
